US04056537
1-Methyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetamide (20.0 g., 0.817 mole), described in Example 126, is dissolved in dry methylene chloride (400 ml) and freshly prepared triethyloxonium fluoroborate (17.00 g., 0.894 mole) is added in one portion to the solution. The reaction mixture is stirred at room temperature for 2 hr. The methylene chloride solution is washed with cold 30% aqueous potassium carbonate followed by brine and the dried organic layer is concentrated under reduced pressure. The residue is dissolved in ether (150 ml.). The solution is filtered and crystallization proceeds at room temperature to afford ethyl-1-methyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetimidate, m.p. 139.5° - 141° C.

reactant | 1-Methyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetamide | 0.817 mole, 20.0 g | CC1(OCCC2=C1NC1=CC=CC=C21)CC(=O)N | C14H16N2O2
reactant | triethyloxonium fluoroborate | 0.894 mole, 17.00 g | F[B-](F)(F)F.C(C)[O+](CC)CC
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | ethyl-1-methyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetimidate | C(C)OC(CC1(OCCC2=C1NC1=CC=CC=C21)C)=N | C16H20N2O2
